US08877760B2
A mixture of (R)-2-(6-chloro-5-cyanopyrazin-2-ylamino)butanamide (80 mg, 0.334 mmol), 4-(pyridin-4-yl)aniline (56 mg, 0.329 mmol), K2CO3 (110 mg, 0.797 mmol), BINAP (30 mg, 0.048 mmol) and Pd(OAc)2 (15 mg, 0.066 mmol) in dioxane (3 mL) was degassed with Ar, then was stirred at 110 C for 4 h. The mixture was concentrated in vacuo. The residue was purified by HPLC to give (R)-2-(5-cyano-6-(4-(pyridin-4-yl)phenylamino)pyrazin-2-ylamino)butanamide (57 mg).

reactant | (R)-2-(6-chloro-5-cyanopyrazin-2-ylamino)butanamide | 0.334 mmol, 80 mg | ClC1=C(N=CC(=N1)N[C@@H](C(=O)N)CC)C#N | C9H10ClN5O
reactant | 4-(pyridin-4-yl)aniline | 0.329 mmol, 56 mg | N1=CC=C(C=C1)C1=CC=C(N)C=C1 | C11H10N2
reactant | K2CO3 | 0.797 mmol, 110 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | BINAP | 0.048 mmol, 30 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(OAc)2 | 0.066 mmol, 15 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | (R)-2-(5-cyano-6-(4-(pyridin-4-yl)phenylamino)pyrazin-2-ylamino)butanamide | 57 mg | C(#N)C=1N=CC(=NC1NC1=CC=C(C=C1)C1=CC=NC=C1)N[C@@H](C(=O)N)CC | C20H19N7O
